US06593333B1
4-[3-Benzamido-4-fluoroanilino]-6,7-dimethoxyquinoline hydrochloride
Using an analogous procedure to that described in Example 26, 4-chloro-6,7-dimethoxyquinoline was reacted with N-(5-amino-2-fluorophenyl)benzamide to give the title compound; NMR: 3.98 (s, 3H), 4.0 (s, 3H), 6.73 (d, 1H), 7.34 (m, 1H), 7.43 (s, 1H), 7.46 (d, 1H), 7.55 (m, 4H), 7.82 (dd, 1H), 7.98 (d, 2H), 8.13 (s, 1H), 8.37 (d, 1H), 10.32 (broad s, 1H), 10.67 (broad s, 1H); Mass: M+H+ 418.

reactant | 4-chloro-6,7-dimethoxyquinoline | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | N-(5-amino-2-fluorophenyl)benzamide | NC=1C=CC(=C(C1)NC(C1=CC=CC=C1)=O)F | C13H11FN2O
product | 4-[3-Benzamido-4-fluoroanilino]-6,7-dimethoxyquinoline hydrochloride | Cl.C(C1=CC=CC=C1)(=O)NC=1C=C(NC2=CC=NC3=CC(=C(C=C23)OC)OC)C=CC1F | InChI=1S/C24H20FN3O3.ClH/c1-30-22-13-17-19(10-11-26-20(17)14-23(22)31-2)27-16-8-9-18(25)21(12-16)28-24(29)15-6-4-3-5-7-15;/h3-14H,1-2H3,(H,26,27)(H,28,29);1H
